US04474780
A mixture of D and L 2-naphthylglycine (from Preparation 1) was reacted with di-tert.-butyl carbonate and sodium hydroxide to provide D,L-N-tert.-butoxycarbonyl-2-naphthylglycine. The t.Boc naphthylglycine was re-acted with optically pure α-aminoethylbenzene in the presence of N,N'-dicyclohexylcarbodiimide to provide N-(1-phenylethyl)-α-tert.-butoxycarbonylamino-α-(2-naphthyl)acetamide. Separation of the diastereomers by chromatography over silica gel afforded, following acid hydrolysis with 6N hydrochloric acid, D-2-naphthylglycine (OR -190°±3°) and L-2-naphthylglycine (OR=+190°±3°).

reactant | Boc naphthylglycine | C(=O)(OC(C)(C)C)N(CC(=O)O)C1=CC=CC2=CC=CC=C12 | C17H19NO4
reactant | α-aminoethylbenzene | NC(C)C1=CC=CC=C1 | C8H11N
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-(1-phenylethyl)-α-tert.-butoxycarbonylamino-α-(2-naphthyl)acetamide | C1(=CC=CC=C1)C(C)NC(C(C1=CC2=CC=CC=C2C=C1)NC(=O)OC(C)(C)C)=O | C25H28N2O3
